US07176242B2
2-Amino-4-(benzyloxy)butan-1-ol Hydrochloride
tert-Butyl 3-(benzyloxy)-1-(hydroxymethyl)propylcarbamate (5 g, 17 mmol) is dissolved in 4 N hydrochloric acid in dioxane (21 mL) and stirred for 3 h at room temperature. The solution is concentrated under reduced pressure to give the title compound in pure form. ESI MS m/z 196.1 [M+H]+.

reactant | tert-Butyl 3-(benzyloxy)-1-(hydroxymethyl)propylcarbamate | 17 mmol, 5 g | C(C1=CC=CC=C1)OCCC(CO)NC(OC(C)(C)C)=O | C16H25NO4
reactant | hydrochloric acid | 4 N | Cl | ClH
solvent | dioxane | 21 mL | O1CCOCC1 | C4H8O2
product | 2-Amino-4-(benzyloxy)butan-1-ol Hydrochloride | Cl.NC(CO)CCOCC1=CC=CC=C1 | InChI=1S/C11H17NO2.ClH/c12-11(8-13)6-7-14-9-10-4-2-1-3-5-10;/h1-5,11,13H,6-9,12H2;1H
